US05629430
To 42.6 mg(95 μmol) of methyl 3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate, 1.6 ml of 3M hydrogen chloride-ethyl acetate was added, and the mixture was stirred at room temperature for one hour. Then the solvent was distilled off. The residue with 23.8 mg (95 mol) of 5,6,7-trimethoxyindole-2-carboxylic acid, and 54.6 mg (285 μmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride was stirred in 0.95 ml of anhydrous dimethylformamide at room temperature under atmosphere of argon overnight. Water was added to the liquid reaction mixture. The resulting mixture was extracted with methylene chloride, and the extract solution was washed with water, 10% sodium hydrogencarbonate, and saturated sodium chloride solution successively, and dried over anhydrous sodium sulfate. Therefrom the solvent was distilled off. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to obtain methyl 1-chloromethyl-5-hydroxy-7-trifluoromethyl-3-(5,6,7-trimethoxy-1H-indol-2-ylcarbonyl)-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate in a yield of 45.3 mg (82%).

reactant | methyl 3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 95 μmol, 42.6 mg | C(C)(C)(C)OC(=O)N1CC(C2=C3C(=C(NC3=C(C=C21)O)C(F)(F)F)C(=O)OC)CCl | C19H20ClF3N2O5
reactant | hydrogen chloride-ethyl acetate | 3M, 1.6 ml | C(C)(=O)OCC.Cl
reactant | 5,6,7-trimethoxyindole-2-carboxylic acid | 95 mol, 23.8 mg | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)O | C12H13NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 285 μmol, 54.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 0.95 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 1-chloromethyl-5-hydroxy-7-trifluoromethyl-3-(5,6,7-trimethoxy-1H-indol-2-ylcarbonyl)-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | ClCC1CN(C=2C1=C1C(=C(NC1=C(C2)O)C(F)(F)F)C(=O)OC)C(=O)C=2NC1=C(C(=C(C=C1C2)OC)OC)OC | C26H23ClF3N3O7
